US07645789B2
A suspension of (E)-2-(5-chloro-2,4-dinitrophenyl)-N,N-dimethylethenamine (9.8 g, 36 mmol) and Raney Nickel (9.8 g) in EtOH (140 mL) was stirred under H2 (1 atm) at room temperature for 4 h. After filtration, the filtrate was concentrated and the residue was purified by column chromatograph (petroleum ether/ethyl acetate=10:1) to give 5-chloro-1H-indol-6-amine (0.97 g, 16%) as a gray powder. 1HNMR (CDCl3) δ 7.85 (br s, 1H), 7.52 (s, 1H), 7.03 (s, 1H), 6.79 (s, 1H), 6.34 (s, 1H), 3.91 (br s, 1H); MS (ESI) m/e (M+H+) 166.0.

reactant | (E)-2-(5-chloro-2,4-dinitrophenyl)-N,N-dimethylethenamine | 36 mmol, 9.8 g | ClC=1C(=CC(=C(C1)/C=C/N(C)C)[N+](=O)[O-])[N+](=O)[O-] | C10H10ClN3O4
catalyst | Raney Nickel | 9.8 g | [Ni] | Ni
solvent | EtOH | 140 mL | CCO | C2H6O
product | 5-chloro-1H-indol-6-amine | 0.97 g, 16% | ClC=1C=C2C=CNC2=CC1N | C8H7ClN2
